US20010056184A1
(a) (2R,4R)-2-Methoxycarbonyl-4-(4-methylpentanoylamino)-1-(2-thiophenesulfonyl)-piperidine
(2R,4R)-2-Methoxycarbonyl-4-(4-methylpentanoylamino)-piperidine (250 mg) was dissolved in CH2Cl2 (5 mL), then Et3N (0.2 mL) and 2-thiophenesulfonyl chloride (267 mg) were added at 0° C., and stirred for 1 h. The reaction mixture was poured into aq.citric acid, then extracted with ethyl acetate (50 mL), washed with brine, dried (Na2SO4), filtered, concentrated. The residue was purified by silica gel column chromatography using ethyl acetate:n-hexane (1:10), the object compound was obtained as a white solid (191 mg).

reactant | (2R,4R)-2-Methoxycarbonyl-4-(4-methylpentanoylamino)-piperidine | 250 mg | COC(=O)[C@@H]1NCC[C@H](C1)NC(CCC(C)C)=O | C13H24N2O3
reactant | Et3N | 0.2 mL | CCN(CC)CC | C6H15N
reactant | 2-thiophenesulfonyl chloride | 267 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (2R,4R)-2-Methoxycarbonyl-4-(4-methylpentanoylamino)-1-(2-thiophenesulfonyl)-piperidine | 191 mg | COC(=O)[C@@H]1N(CC[C@H](C1)NC(CCC(C)C)=O)S(=O)(=O)C=1SC=CC1 | C17H26N2O5S2
